* E:\Git\Group Project\HAYES\Sims\Draft3.asc
R1 1.65 N002 1k
R2 N004 N005 1k
R3 N003 N004 16k
C1 N002 N001 1.8n
C2 0 N005 1.8n
V1 N001 0 SINE(0 ac)
V2 1.65 0 1.65
XU1 N004 N002 3.3v 0 N003 level2 Avol=1Meg GBW=20Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V3 3.3v 0 3.3
.ac dec 100 100k 100meg
.lib UniversalOpAmp2.lib
.backanno
.end
