* E:\Git\Group Project\HAYES\Sims\Draft3.asc
R1 1.65v N002 1k
R2 N003 N005 1k
R3 N004 N003 15k
C1 N002 N001 1.8n
C2 1.65v N005 1.8n
V1 N001 0 SINE(0 ac)
V2 1.65v 0 1.65
XU1 N002 N003 3.3v 0 N004 level2 Avol=1Meg GBW=20Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V3 3.3v 0 3.3
.ac dec 100 1k 100meg
.lib UniversalOpAmp2.lib
.backanno
.end
